US08536209B2
3-{4-[2-(5-Acetyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-ylcarbamoyl]-5-phenyl-oxazol-2-yl}-propionic acid tert-butyl ester
Following general procedure A followed by B, starting from 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 2-(2-tert-butoxycarbonyl-ethyl)-5-phenyl-oxazole-4-carboxylic acid.

reactant | 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C1=CC=C(O1)CN1N=CC(=N1)N | C11H14N4O3
reactant | 2-(2-tert-butoxycarbonyl-ethyl)-5-phenyl-oxazole-4-carboxylic acid | C(C)(C)(C)OC(=O)CCC=1OC(=C(N1)C(=O)O)C1=CC=CC=C1 | C17H19NO5
product | 3-{4-[2-(5-Acetyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-ylcarbamoyl]-5-phenyl-oxazol-2-yl}-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC=1OC(=C(N1)C(NC1=NN(N=C1)CC=1OC(=CC1)C(C)=O)=O)C1=CC=CC=C1)=O | C26H27N5O6
